US04001238
4-Amino-6,7-dimethoxy-2-[4-(5-methylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride
A solution of 5-methylthio-1,3,4-oxadiazole-2-carbonyl chloride (0.601 g., 3.36 mmole) in dioxane (10 ml.) was added to a solution of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (0.972 g., 3.36 mmole) in dioxane (100 ml.). The resultant mixture was stirred at room temperature for 65 hours, then was heated at reflux for 30 minutes. Filtration gave the title compound (1.56 g.). Recrystallization from methanol gave a product having a M.P. of 280°-285° C. with decomposition.

reactant | 5-methylthio-1,3,4-oxadiazole-2-carbonyl chloride | 3.36 mmole, 0.601 g | CSC1=NN=C(O1)C(=O)Cl | C4H3ClN2O2S
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 3.36 mmole, 0.972 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6,7-dimethoxy-2-[4-(5-methylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]-quinazoline hydrochloride | 1.56 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1OC(=NN1)SC | InChI=1S/C18H21N7O4S.ClH/c1-27-12-8-10-11(9-13(12)28-2)20-17(21-14(10)19)25-6-4-24(5-7-25)16(26)15-22-23-18(29-15)30-3;/h8-9H,4-7H2,1-3H3,(H2,19,20,21);1H
